US05354549
Pivaloyloxymethyl 5-(N-acetylamino)-3-(methylaminocarbonyl)-2,4,6-triiodobenzenecarboxylate
Chloromethylpivalate (7.62 g, 50.6 mmol) in dry DMF (84 ml) is added dropwise at 50° C. to a solution of potassium 5-(N-acetylamino)-3-(methylaminocarbonyl)-2,4,6-triiodobenzenecarboxylate (30.00 g, 46.0 mmol) and sodium iodide (0.37 g, 2.5 mmol) in dry DMF (450 ml). The precipitate is removed by filtration after stirring for 4 hours and the solvent is removed at reduced pressure. The residue is triturated and washed repeatedly in water and finally recrystallised from isopropanol.

reactant | Chloromethylpivalate | 50.6 mmol, 7.62 g | ClCCC(C(=O)[O-])(C)C
reactant | potassium 5-(N-acetylamino)-3-(methylaminocarbonyl)-2,4,6-triiodobenzenecarboxylate | 46.0 mmol, 30.00 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)C(=O)NC)I.[K+]
reactant | sodium iodide | 2.5 mmol, 0.37 g | [I-].[Na+]
reactant | DMF | 84 ml | CN(C)C=O | C3H7NO
reactant | DMF | 450 ml | CN(C)C=O | C3H7NO
product | Pivaloyloxymethyl 5-(N-acetylamino)-3-(methylaminocarbonyl)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OCOC(C(C)(C)C)=O)I)C(=O)NC)I | C17H19I3N2O6
